US04420327
Production of N[4-bromo-3-(2,2-ethylenedioxycyclopentyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 2.2 g. of N-[4-bromo-3-(cyclopentanon-2-yloxy)phenyl]-3,4,5,6-tetrahydrophthalimide, 0.68 g. of ethyleneglycol, 0.2 g. of p-toluenesulfonic acid and 30 ml. of benzene was refluxed with stirring under removing water for 8 hours and the reaction mixture was cooled to room temperature and then, 20 ml. of ethyl acetate was added to the reaction mixture to extract the product. The extract was washed with water and dehydrated over sodium sulfate and the solvent was distilled off and the product was purified by a chromatography on a column of silica gel (developing solvent: ethyl acetate:n-hexane of 1:4) to obtain 1.35 g. of Compound No. 9 shown in Table 1.

reactant | N-[4-bromo-3-(cyclopentanon-2-yloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC2C(CCC2)=O | C19H18BrNO4
reactant | ethyleneglycol | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N[4-bromo-3-(2,2-ethylenedioxycyclopentyloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC2C1(CCC2)OCCO1 | C21H22BrNO5
